US04962108
6,8-Diazabicyclo[3.2.2]nonane-7,9-dione
A solution of 39.0 g (0.134 M) of 2,6-diaminoheptanedioic acid, dimethyl ester, dihydrochloride, 56 ml (0.4 M) of triethylamine, and 3 L of 1-pentanol was heated under reflux for 4 days. The solution was evaporated to dryness and the residue was recrystallized from chloroform to give 14.3 g of the title compound, mp 280°-3° (69%).

reactant | 2,6-diaminoheptanedioic acid, dimethyl ester, dihydrochloride | 0.134 M, 39.0 g | Cl.Cl.NC(C(=O)OC)CCCC(C(=O)OC)N
reactant | 1-pentanol | 3 L | C(CCCC)O | C5H12O
solvent | triethylamine | 0.4 M, 56 ml | C(C)N(CC)CC | C6H15N
product | 6,8-Diazabicyclo[3.2.2]nonane-7,9-dione | 14.3 g | C12CCCC(NC1=O)C(N2)=O | C7H10N2O2
